US06166009
A mixture of 2-piperidinecarboxylic acid ethyl ester hydrochloride (0.60 g, 0.003 mol), acetonitrile (10 ml), 5-(3-chloropropyl)-10,11-dihydro-5H-dibenzo[b,f]azepine (0.60 g, 0.002 mol, prepared similarly as described in example 1), potassium iodide (0.40 g, 0.002 mol), potassium carbonate (1.03 g, 0.008 mol) and N,N-dimethylformamide (5 ml) was heated at reflux temperature for 85 h. Water (50 ml) was added, and the aqueous solution was extracted with ethyl acetate (3×20 ml). The combined organic extracts were washed with brine (2×50 ml), dried (MgSO4) and concentrated in vacuo. The product was purified by column chromatography on silica gel (15 g) using a gradient of heptane and ethyl acetate (100:0→100:25), affording 0.83 g (97%) of 1-(3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-2-piperidinecarboxylic acid ethyl ester as an oil.

reactant | 2-piperidinecarboxylic acid ethyl ester hydrochloride | 0.003 mol, 0.60 g | Cl.C(C)OC(=O)C1NCCCC1
reactant | 5-(3-chloropropyl)-10,11-dihydro-5H-dibenzo[b,f]azepine | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
reactant | potassium iodide | 0.002 mol, 0.40 g | [I-].[K+]
reactant | potassium carbonate | 0.008 mol, 1.03 g | C([O-])([O-])=O.[K+].[K+]
solvent | Water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-2-piperidinecarboxylic acid ethyl ester | 0.83 g, 97% | C(C)OC(=O)C1N(CCCC1)CCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C25H32N2O2
